US06075018
1-(2,3-Dimethoxystyryl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine hydrochloride
1.5 g (4.12 mmoles) of 1-(2,3-dimethoxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine is reduced as specified in Example 1, the evaporation residue is dissolved in ethyl acetate and 10 ml of 10% by mass of ethyl acetate saturated with gaseous hydrogen chloride are added to the solution. The separated product is filtered, washed three times with 5 ml each of ethyl acetate and dried at a temperature between 80° C. and 100° C. Thus 0.76 g (45.8%) of the desired product is obtained. M.p.: 193-195° C. (decomp)

reactant | 1-(2,3-dimethoxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 4.12 mmoles, 1.5 g | COC1=C(C=CC2=NN=C(CC3=C2C=C2C(=C3)OCO2)C)C=CC=C1OC | C21H20N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,3-Dimethoxystyryl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine hydrochloride | 0.76 g, 45.8% | Cl.COC1=C(C=CC2=NNC(CC3=C2C=C2C(=C3)OCO2)C)C=CC=C1OC | InChI=1S/C21H22N2O4.ClH/c1-13-9-15-10-19-20(27-12-26-19)11-16(15)17(23-22-13)8-7-14-5-4-6-18(24-2)21(14)25-3;/h4-8,10-11,13,22H,9,12H2,1-3H3;1H
